US05278316
2-Adamantylchloroformate
To a stirred solution of 2-adamantanol (0.912 g, 6 mmol) in dry CH2Cl2 (15 mL) was added bis(trichloromethyl)carbonate (0.653 g), pyridine in dry CH2Cl2 (10 mL) at 0° C. The reaction mixture was warmed to room temperature and stirred for two hours. The solvent was removed in vacuo at 30° C., taken up on ethyl acetate (30 mL) and stirred for 10 minutes. The pyridinium hydrochloride precipitate was filtered off and the solvent removed in vacuo at 30° C., to give an oil which solidified upon standing (1.29 g, 100%). IR (film) 1778 cm-1 ; NMR (CDCl3) δ 1.55-1.65 (2H, m), 1.70-1.80 (4H, m), 1.85-1.95 (4H, m), 2.00-2.10 (2H, m), 2.15-2.20 (2H, m), 5.02 (1H, 6, J 3.3 Hz CHOCOCl).

reactant | 2-adamantanol | 6 mmol, 0.912 g | C12C(C3CC(CC(C1)C3)C2)O | C10H16O
reactant | bis(trichloromethyl)carbonate | 0.653 g | ClC(Cl)(Cl)OC(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Adamantylchloroformate | C12C(C3CC(CC(C1)C3)C2)OC(=O)Cl | C11H15ClO2
